US08975411B2
Synthesis of tert-butyl imino{[2-(mesityloxy)-2-methylpropanoyl]amino}methylcarbamate
2-(Mesityloxy)-2-methylpropionic acid (4.45 g; 20 mmol), diisopropylethylamine (12.93 g; 100 mmol), tert-butyl amino(imino)methylcarbamate (3.82 g; 24 mmol), and 1-hydroxybenzotriazole monohydrate (3.68 g; 24 mmol) were dissolved in N,N-dimethylformamide (100 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (9.10 g; 24 mmol) was added, and the mixture was stirred for 41 hours at room temperature. To the reaction solution, ethyl acetate (300 mL) was added, and the mixture was washed with 10% aqueous citric acid solution, brine, saturated aqueous sodium bicarbonate solution, and then brine. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure. The resulting crystals were dispersed in diisopropyl ether, collected by filtration and dried to give 4.82 g of the title compound (yield 66%).

reactant | 2-(Mesityloxy)-2-methylpropionic acid | 20 mmol, 4.45 g | C1(=C(C(=CC(=C1)C)C)OC(C(=O)O)(C)C)C | C13H18O3
reactant | diisopropylethylamine | 100 mmol, 12.93 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 24 mmol, 3.82 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 24 mmol, 3.68 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 24 mmol, 9.10 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl imino{[2-(mesityloxy)-2-methylpropanoyl]amino}methylcarbamate | 4.82 g, yield 66% | N=C(NC(C(C)(C)OC1=C(C=C(C=C1C)C)C)=O)NC(OC(C)(C)C)=O | C19H29N3O4
